US06204294B1
Preparation of N-(2-Hydroxy-4-cyanophenyl)-N′-(2-bromophenyl)-N″-cyanoguanidine.
To a mixture of N-(2-Allyloxy-4-cyanophenyl)-N′-(2-bromophenyl)-N″-cyanoguanidine (100 mg, 0.25 mmol) and sodium borohydride (20 mg, 0.52 mmol) in THF (3 ml) was added at rt tetrakistriphenylphosphine palladium[0] (21 mg, 7 mol %). The reaction was stirred at rt until tlc showed no starting material present. The mixture was partitioned between ethyl acetate and 0.5 M sodium dihydrogen phosphate. After drying over MgSO4 filtration and evaporation under reduced pressure afforded a crude tan solid (100 mg). Column chromatography on silica gel eluting with 5% methanol/chloroform gave the title compound as a pale yellow solid (64 mg) which was recrystallized from chloroform (42 mg, 47%). 1H NMR(400 MHz,DMSO) δ 10.93 (s, 1H), 9.57 (s, 1H), 8.74(s, 1H), 7.84 (d, J=8.3 Hz, 1H),7.71 (d, J=7.8 Hz, 2H), 7-50-7.42 (m, 2H), 7-30-7.26 (m, 2H 7.17 (s, 1H), 7.08 (t, 1H); IR(KBr) 2224,2193 cm−1; MS(ES−) m/e 354,356 [M−H]−; MS(ES+) m/e 356,358 [M+H]+; mp. 175-176°.

reactant | N-(2-Allyloxy-4-cyanophenyl)-N′-(2-bromophenyl)-N″-cyanoguanidine | 0.25 mmol, 100 mg | C(C=C)OC1=C(C=CC(=C1)C#N)NC(=NC#N)NC1=C(C=CC=C1)Br | C18H14BrN5O
reactant | sodium borohydride | 0.52 mmol, 20 mg | [BH4-].[Na+]
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-(2-Hydroxy-4-cyanophenyl)-N′-(2-bromophenyl)-N″-cyanoguanidine | 64 mg | OC1=C(C=CC(=C1)C#N)NC(=NC#N)NC1=C(C=CC=C1)Br | C15H10BrN5O
